US09375009B2
To 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride (500 mg) in dichloromethane (6 ml) under argon were added 2-chloro-2-oxoethyl acetate (154 mg) and triethylamine (342 mg). The reaction mixture was stirred at room temperature for 18 hours. Then water was added thereto, and it was filtered, dried and concentrated. Purification by column chromatography gave 2-{4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-oxoethyl acetate (170 mg, 30%).

reactant | 4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidinium chloride | 500 mg | [Cl-].CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CC[NH2+]CC1
reactant | 2-chloro-2-oxoethyl acetate | 154 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | triethylamine | 342 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 2-{4-[4-(5-{2-[(methylsulphonyl)oxy]phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidin-1-yl}-2-oxoethyl acetate | 170 mg, 30% | C(C)(=O)OCC(=O)N1CCC(CC1)C=1SC=C(N1)C1=NOC(C1)C1=C(C=CC=C1)OS(=O)(=O)C | C22H25N3O7S2
